US07078425B2
3-(1-Benzenesulfonyl-6-chloro-7-methoxy-1H-indazol-4-yl)-2-(diphenylmethylenamino)-N-(4-phenyl-butyl)-propionamide (0.46 g, 0.65 mmol) is dissolved in Et2O (15 mL) and rapidly stirred with 2N HCl for 14 hours. The ether layer was decanted and the remaining aqueous layer was washed with Et2O. The aqueous layer was then concentrated and azeotroped to dryness with PhMe to provide 2-amino-3-(1-benzenesulfonyl-6-chloro-7-methoxy-1H-indazol-4-yl)-N-(4-phenyl-butyl)-propionamide hydrochloride which was used in the next step without further purification.

reactant | 3-(1-Benzenesulfonyl-6-chloro-7-methoxy-1H-indazol-4-yl)-2-(diphenylmethylenamino)-N-(4-phenyl-butyl)-propionamide | 0.65 mmol, 0.46 g | C1(=CC=CC=C1)S(=O)(=O)N1N=CC2=C(C=C(C(=C12)OC)Cl)CC(C(=O)NCCCCC1=CC=CC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C40H37ClN4O4S
reactant | HCl | 2N | Cl | ClH
solvent | Et2O | 15 mL | CCOCC | C4H10O
product | 2-amino-3-(1-benzenesulfonyl-6-chloro-7-methoxy-1H-indazol-4-yl)-N-(4-phenyl-butyl)-propionamide hydrochloride | Cl.NC(C(=O)NCCCCC1=CC=CC=C1)CC1=C2C=NN(C2=C(C(=C1)Cl)OC)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C27H29ClN4O4S.ClH/c1-36-26-23(28)16-20(17-24(29)27(33)30-15-9-8-12-19-10-4-2-5-11-19)22-18-31-32(25(22)26)37(34,35)21-13-6-3-7-14-21;/h2-7,10-11,13-14,16,18,24H,8-9,12,15,17,29H2,1H3,(H,30,33);1H
